US08426411B2
To a solution of 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbaldehyde (0.050 g, 0.105 mmol) in THF (2 mL) was added iodine (0.083 g, 0.327 mmol) and aqueous NH4OH (28-30% w/v, 0.733 mL, 5.27 mmol). The reaction mixture was stirred at ambient temperature for about 24 h. The reaction mixture was diluted with saturated aqueous Na2SO3 (30 mL) and EtOAc (30 mL). The layers were partitioned and the organic layer was dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure to give 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbonitrile (0.05 g, 100%): LC/MS (Table 1, Method a) Rt=2.33 min; MS m/z: 472 (M+H)+.

reactant | 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbaldehyde | 0.105 mmol, 0.050 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N1C=C(C=C1)C=O | C24H22N6O3S
reactant | iodine | 0.327 mmol, 0.083 g | II | I2
reactant | NH4OH | 5.27 mmol, 0.733 mL | [NH4+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Na2SO3 | 30 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbonitrile | 0.05 g, 100% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N1C=C(C=C1)C#N | C24H21N7O2S
